US08754079B2
51.2 4-[4-Fluoro-2-((1S,2S)-2-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
5 ml sodium hydroxide solution (4M) was added to a mixture of 2.960 g 4-[4-Fluoro-2-((1S,2S)-2-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (cpd. 51.1) in 60 ml methanol/THF (1:1). The reaction mixture was stirred at rt for 3 hours, then acidified with aq. HCl and diluted with water. The mixture was filtered and the filtercake was dried.

reactant | sodium hydroxide | 4M, 5 ml | [OH-].[Na+]
reactant | 4-[4-Fluoro-2-((1S,2S)-2-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 2.960 g | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2[C@H](CCCC2)O)S1)C | C21H22FN3O4S
reactant | HCl | Cl | ClH
solvent | methanol THF | 60 ml | CO.C1CCOC1
solvent | water | O | H2O
product | 4-[4-Fluoro-2-((1S,2S)-2-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2[C@H](CCCC2)O | C20H20FN3O4S
